US08445510B2
1-(1-Methyl-1H-imidazol-2-yl)piperidin-4-ol
A mixture of N-methyl-2-bromoimidazole (7.3 g, 45.3 mmol) and 4-hydroxypiperidine (11.4 g, 113 mmol, 2.5 eq) was stirred at 140° C. for 16 h. After cooling to room temperature, the reaction mixture was diluted with 10% aq. NaOH solution to pH 12. The organic layer was separated and the aqueous layer was extracted with ethyl acetate (2×25 mL). The combined organic layers were washed with water (20 mL) followed by brine (20 mL), dried over sodium sulfate, filtered, and evaporated under vacuum. The solid residue was purified by column chromatography by eluting with 5% to 20% methanol in dichloromethane to yield the title compound as yellow solid. 1H NMR (CDCl3, 300 MHz): δ=6.64 (d, J=0.9 Hz, 1H), 6.75 (d, J=0.9 Hz, 1H), 3.85-3.84 (m, 1H), 3.47 (s, 3H), 3.24-3.22 (m, 2H), 2.94-2.92 (m, 2H), 2.01-1.98 (m, 2H), 1.71-1.69 (m, 2H). MS (ES+): m/z=182.28 (100) [MH+]. HPLC: tR=0.74 & 1.13 min (verypolar—5 min, ZQ3).

reactant | N-methyl-2-bromoimidazole | 45.3 mmol, 7.3 g | CN1C(=NC=C1)Br | C4H5BrN2
reactant | 4-hydroxypiperidine | 113 mmol, 11.4 g, 2.5 eq | OC1CCNCC1 | C5H11NO
solvent | NaOH | [OH-].[Na+]
product | 1-(1-Methyl-1H-imidazol-2-yl)piperidin-4-ol | CN1C(=NC=C1)N1CCC(CC1)O | C9H15N3O
